US07652041B2
Step 4: Preparation of (2S)-3-methoxypropane-1,2-diamine dihydrochloride
To a solution of di-tert-butyl [(2S)-3-methoxypropane-1,2-diyl]biscarbamate (895 mg, 2.94 mmol) in MeOH (30 mL), was added 2N HCl in Et2O (15 mL, 29.4 mmol). The reaction was stirred at rt for 18 h and the solvents evaporated to yield the title compound as a white solid (478 mg, 92%). LCMS: (FA) ES+ 105.0 (M+1).

reactant | di-tert-butyl [(2S)-3-methoxypropane-1,2-diyl]biscarbamate | 2.94 mmol, 895 mg | COC[C@H](CNC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O | C14H28N2O5
reactant | HCl | 2N | Cl | ClH
reactant | Et2O | 29.4 mmol, 15 mL | CCOCC | C4H10O
solvent | MeOH | 30 mL | CO | CH4O
product | (2S)-3-methoxypropane-1,2-diamine dihydrochloride | 478 mg, 92% | Cl.Cl.COC[C@H](CN)N | InChI=1S/C4H12N2O.2ClH/c1-7-3-4(6)2-5;;/h4H,2-3,5-6H2,1H3;2*1H/t4-;;/m0../s1
